US07064229B2
tert-Butyl 4-({[(2-methylphenyl)amino]carbonyl}amino)benzylcarbamate
2-Methylphenylisocyanate (7.57 g, 59.83 mmol) was added dropwise at 0° C. to a solution of (4-amino-benzyl)-carbamic acid tert-butyl ester (13.30 g, 59.83 mmol, prepared analoguous to: Moloney, Gerard P.; Martin, Graeme R.; Mathews, Neil; Mine, Aynsley; Hobbs, Heather; et al. J. Med Chem. 1999, 42, 2504–2526) in 120 mL DCM. The reaction was heated under reflux for 16 h, cooled to r.t. and the precipitated product was collected by filtration and dried in vacuum (19.20 g, 54.00 mmol). M.p. 200–202° C.; TLC (PE/EtOAc 1/1) Rf 0.65; 1H NMR (400 MHz, D6-DMSO) δ 1.39 (s, 9H); 2.24 (s, 3H); 4.06 (d, J=6 Hz, 2H); 6.93 (mc, 1H); 7.12–7.17 (m, 4); 7.32 (mc, 1H); 7.40 (mc, 2H); 7.85 (mc, 1H); 7.90 (s, 1H); 8.98 (s, 1H).

reactant | 2-Methylphenylisocyanate | 59.83 mmol, 7.57 g | CC1=C(C=CC=C1)N=C=O | C8H7NO
reactant | (4-amino-benzyl)-carbamic acid tert-butyl ester | 59.83 mmol, 13.30 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)N)=O | C12H18N2O2
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-({[(2-methylphenyl)amino]carbonyl}amino)benzylcarbamate | CC1=C(C=CC=C1)NC(=O)NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C20H25N3O3
